US08039463B2
DMAP (68 mg, 0.56 mmol) was added to 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid (100 mg, 0.28 mmol) in DMF (2 mL) followed by EDCI (64 mg, 0.33 mmol) and HOBT (45 mg, 0.33 mmol). After 2 minutes, 4-pyridin-3-yl-phenylamine (55 mg, 0.18 mmol) was added and it was stirred at room temperature overnight. Cold water was then added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure to afford 55 mg (38.73% yield) of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-(4-pyridin-3-yl-phenyl)-propionamide. LC/MS [M+H]+: 507.1, 90.55%. 1H NMR (300 MHz, DMSO-d6): δ 10.25 (d, 1H), 8.9 (bt, 1H), 8.5 (d, 1H), 8.1-8.0 (m, 1H), 7.7 (d, 5H), 7.52-7.3 (m, 4H), 3.8-3.46 (m, 8H), 3.2 (bt, 1H), 3.1 (bt, 1H).

reactant | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid | 0.28 mmol, 100 mg | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)O)=O)C=CC=C1 | C14H15BrN2O4
reactant | EDCI | 0.33 mmol, 64 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.33 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-pyridin-3-yl-phenylamine | 0.18 mmol, 55 mg | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
catalyst | DMAP | 0.56 mmol, 68 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-(4-pyridin-3-yl-phenyl)-propionamide | 55 mg, 38.73% yield | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)NC2=CC=C(C=C2)C=2C=NC=CC2)=O)C=CC=C1 | C25H23BrN4O3
